US06130238
Crude dimethyl-3-nitrobiphenyl-4-malonate was refluxed in 30 mL of 6 N hydrochloric acid for 24 hours. The precipitate was collected by filtration, washed with water and dried to give 4.5 g of 3-nitrobiphenyl-4-acetic acid as a cream colored solid.

reactant | dimethyl-3-nitrobiphenyl-4-malonate | COC(C(C(=O)OC)C1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-])=O | C17H15NO6
solvent | hydrochloric acid | 6 N, 30 mL | Cl | ClH
product | 3-nitrobiphenyl-4-acetic acid | 4.5 g | [N+](=O)([O-])C=1C=C(C=CC1CC(=O)O)C1=CC=CC=C1 | C14H11NO4
